US05028606
To a stirred and cooled (0° C.) solution of 7 parts of 4-[1-(1H-imidazol-1-yl)propyl]-2-nitrobenzenamine in 126 parts of 1,2-dichloroethane were added 9.6 parts of 2-methylbenzeneacetyl chloride. After stirring for 12 hours at room temperature, the reaction mixture was poured into ice water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated in vacuo. The oily residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (98:2 by volume) as eluent. The eluent of the desired fraction was evaporated, yielding 9.6 parts (89.3%) of N-[4-[1-(1H-imidazol-1-yl)propyl]-2-nitrophenyl]-2-methylbenzeneacetamide; mp. 122° C. (interm. 48).

reactant | 4-[1-(1H-imidazol-1-yl)propyl]-2-nitrobenzenamine | N1(C=NC=C1)C(CC)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C12H14N4O2
reactant | 2-methylbenzeneacetyl chloride | CC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-[4-[1-(1H-imidazol-1-yl)propyl]-2-nitrophenyl]-2-methylbenzeneacetamide | 89.3% | N1(C=NC=C1)C(CC)C1=CC(=C(C=C1)NC(CC1=C(C=CC=C1)C)=O)[N+](=O)[O-] | C21H22N4O3
